US05428037
A solution of 2-phenyl-4-methyl-5-formylfuran (1.1 g), diphenylmethylpiperazine (1.5 g), and titanium(IV) isopropoxide (1.76 g) was stirred for 11/4 hours. Diethyl ether (20 ml) was added, and the resultant solution was stirred for 30 minutes. Methyl magnesium iodide (6 ml of 3M in ether) was then added dropwise, and the mixture stirred at room temperature for 1 hour. Ammonium chloride (20 ml of a saturated solution in water) was then added, followed by 300 ml of methylene chloride, and the mixture made basic with a solution of sodium bicarbonate. The residue was partitioned between methylene chloride/water, the organic layer separated, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel, eluting with 15% ethyl acetate in heptane with a trace of ammonia, to yield 0.51 g of 1-(diphenylmethyl)-4-[(2-phenyl-4-methylfuran-5-yl)eth-1-yl]piperazine. Treatment with anhydrous hydrochloric acid in ethanol converted the base to its dihydrochloride salt, m.p. 205°-208° C.

reactant | 2-phenyl-4-methyl-5-formylfuran | 1.1 g | C1(=CC=CC=C1)C=1OC(=C(C1)C)C=O | C12H10O2
reactant | diphenylmethylpiperazine | 1.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | Methyl magnesium iodide | 3M, 6 ml | C[Mg]I
reactant | Ammonium chloride | [Cl-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
catalyst | titanium(IV) isopropoxide | 1.76 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | Diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(diphenylmethyl)-4-[(2-phenyl-4-methylfuran-5-yl)eth-1-yl]piperazine | 0.51 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCC1=C(C=C(O1)C1=CC=CC=C1)C)C1=CC=CC=C1 | C30H32N2O
